US04866064
A solution of 8.4 g of the thus obtained 7-chloro-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one and 88.2 g of a 57% hydroiodic acid aqueous solution was heated to 95°~110° C. and stirred for 2 hours. After cooling, the solution was filtered. The residue was washed with water and dissolved in toluene. The toluene solution was washed with a sodium hydrogen carbonate aqueous solution, a sodium thiosulfate aqueous solution and water respectively and dried over anhydrous sodium sulfate. The solvent was distilled off and thus 9.8 g of 80% pure 7-iodo-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 7-chloro-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | ClC=1N=C2N(C(C1)=O)N=C(S2)SCCCCCC | C11H14ClN3OS2
reactant | hydroiodic acid | I | HI
product | 7-iodo-2-hexylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 9.8 g, 80% | IC=1N=C2N(C(C1)=O)N=C(S2)SCCCCCC | C11H14IN3OS2
